US08048887B2
2-(4-Fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl trifluoromethanesulfonate
To a mixture of 2-(4-fluorophenyl)-5-hydroxy-N-methyl-6-nitrobenzofuran-3-carboxamide (100 mg, 0.303 mmol) in CH2Cl2 (4 mL) at r.t. under N2 was added triethylamine (0.084 mL, 0.606 mmol). The mixture was then cooled to 0° C., and then added 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide (162 mg, 0.454 mmol). The orange suspension was then stirred at r.t. for 23 hr. The mixture was evaporated. The grayish-green residue was added 3 ml H2O, the solid product filtered and washed with 3×3 ml H2O and dried (130.8 mg, 89%). 1H NMR (500 MHz, DMSO-d6) δ 8.84 (s, 1H), 8.62 (broad s, 1H), 8.02 (td, J=5.65, 2.44, 2H), 7.96 (s, 1H,), 7.48 (td, J=8.77, 2.59, 2H), 2.85 (appeared as d, J=3.97, 3H). LC/MS were performed by using Shimadzu-VP instrument with UV detection at 220 nm and Waters MICROMASS®. HPLC method: Solvent A=10% MeOH-90% H2O-0.1% TFA, Solvent B=90% MeOH-10% H2O-0.1% TFA, Start % B=0, Final % B=100, Gradient time=2 min, Stop time=3 min, Flow Rate=4 ml/min, Column: XTERRA® MS 7 um, C18, 3.0×50 mm; (ES+) m/z (M+H)+=463.25, HPLC Rt=1.700 min.

reactant | 2-(4-fluorophenyl)-5-hydroxy-N-methyl-6-nitrobenzofuran-3-carboxamide | 0.303 mmol, 100 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C(=C2)[N+](=O)[O-])O | C16H11FN2O5
reactant | triethylamine | 0.606 mmol, 0.084 mL | C(C)N(CC)CC | C6H15N
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethylsulfonyl)methanesulfonamide | 0.454 mmol, 162 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Fluorophenyl)-3-(methylcarbamoyl)-6-nitrobenzofuran-5-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1)[N+](=O)[O-])(F)F | C17H10F4N2O7S
